US05225402
1-{1-[4-(3-Aminopropoxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (0.5 g), methylisocyanate (0.15 ml) and acetone (10 ml) are heated at 100° C. for 18 hours in an autoclave. Acetone is distilled off and the residue is purified by silica gel column chromatography (solvent: methylene chloride:methanol=100-50:1) to give 1-{1-[4-(3-(3-methylureido)propoxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (0.19 g).

reactant | 1-{1-[4-(3-Aminopropoxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 0.5 g | NCCCOC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C24H29N3O3
reactant | methylisocyanate | 0.15 ml | CN=C=O | C2H3NO
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 1-{1-[4-(3-(3-methylureido)propoxy)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 0.19 g | CNC(NCCCOC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1)=O | C26H32N4O4
